US09340538B2
Step A: N-isopropylmorpholine-3-carboxamide
A mixture of methyl morpholine-3-carboxylate hydrochloride (0.22 g, 1.2 mmol) and propan-2-amine (2.78 g, 47 mmol) was stirred at 60° C. for 12 hours under N2. The mixture was concentrated in vacuo to give the title compound as brownish sticky oil (0.2 g, 95%). The compound was characterized by the following spectroscopic data:

reactant | methyl morpholine-3-carboxylate hydrochloride | 1.2 mmol, 0.22 g | Cl.N1C(COCC1)C(=O)OC
reactant | propan-2-amine | 47 mmol, 2.78 g | CC(C)N | C3H9N
product | N-isopropylmorpholine-3-carboxamide | 0.2 g, 95% | C(C)(C)NC(=O)C1NCCOC1 | C8H16N2O2
